US07592373B2
4.275.c. 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-{4-[2-(3,4-dihydro-1H-isoquinolin-2-yl)ethoxy]-3-methoxyphenyl}amide formate
Prepared analogously to Example 2.3.f. from 150 mg (0.6 mmol) of (2-chloro-4-trifluoromethylphenyl)propynoic acid and 304 mg (0.66 mmol) of 4-[2-(3,4-dihydro-1H-isoquinolin-2-yl)ethoxy]-3-methoxyphenylamine (65%). Yield: 17 mg (5% of theory); melting point: 92° C.-95° C.; C28H24ClF3N2O3 (M=528.96)*CH2O2; calc.: molecular ion peak (M+H)+: 529/531 (Cl); found: molecular ion peak (M+H)+: 529/531 (Cl); Rf value: 0.55 (silica gel, dichloromethane/methanol (9:1)).

reactant | (2-chloro-4-trifluoromethylphenyl)propynoic acid | 0.6 mmol, 150 mg | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
reactant | 4-[2-(3,4-dihydro-1H-isoquinolin-2-yl)ethoxy]-3-methoxyphenylamine | 0.66 mmol, 304 mg | C1N(CCC2=CC=CC=C12)CCOC1=C(C=C(C=C1)N)OC | C18H22N2O2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-{4-[2-(3,4-dihydro-1H-isoquinolin-2-yl)ethoxy]-3-methoxyphenyl}amide formate | C(=O)O.C1N(CCC2=CC=CC=C12)CCOC1=C(C=C(C=C1)NC(C#CC1=C(C=C(C=C1)C(F)(F)F)Cl)=O)OC | InChI=1S/C28H24ClF3N2O3.CH2O2/c1-36-26-17-23(33-27(35)11-7-20-6-8-22(16-24(20)29)28(30,31)32)9-10-25(26)37-15-14-34-13-12-19-4-2-3-5-21(19)18-34;2-1-3/h2-6,8-10,16-17H,12-15,18H2,1H3,(H,33,35);1H,(H,2,3)
